US09085534B2
3-{[3-(cyclopropylmethoxy)benzyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 7% yield from 3-cyclopropylmethoxy-benzylamine hydrochloride and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 8.07 (s, 1H), 7.79 (d, 1H, J=5.0 Hz), 7.57 (d, 1H, J=5.0 Hz), 7.23 (t, 1H, J=8.0 Hz), 6.89-6.95 (m, 2H), 6.79 (d, 1H, J=7.6 Hz), 4.49 (s, 2H), 3.78 (d, 2H, J=6.9 Hz), 1.15-1.21 (m, 1H), 0.51-0.57 (m, 2H), 0.27-0.32 (m, 2H). [M+H] calc'd for C17H18N2O3, 299; found 299.

reactant | 3-cyclopropylmethoxy-benzylamine hydrochloride | Cl.C1(CC1)COC=1C=C(CN)C=CC1
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[3-(cyclopropylmethoxy)benzyl]amino}pyridine-4-carboxylic acid | 7% yield | C1(CC1)COC=1C=C(CNC=2C=NC=CC2C(=O)O)C=CC1 | C17H18N2O3
